US05401434
Into a flask, were placed triphenylphosphine (2.9 g, 11 mmol) and 4-fluorophenyl bromide (2.2 g, 11 mmol) prepared from 4-fluorophenethyl alcohol, followed by adding and dissolving xylene (5 ml), heating under reflux for 10 hours, depositing and filtering off white crystals (4.6 g, 10 mmol) of 4-fluorophenethyltriphenylphosphonium bromide. After drying, the white crystals were dissolved in tetrahydrofuran (THF, 10 ml), followed by stirring under ice cooling, adding a hexane solution (1.6M, 6.1 ml) of n-butyl lithium dropwise; stirring at room temperature for 2 hours, adding THF (5 ml) solution of 4-pentylcyclohexylacetaldehyde (2.1 g, 11 mmol), further stirring for 5 hours, adding ether after the completion of reaction. After separating the deposited white crystals by filtration, the filtrate was concentrated under reduced pressure, purifying the resulting oily substance by means of silica gel column chromatography, to obtain a mixture (2.2 g, 7.3 mmol) of 1-(4-fluorophenyl)-4-(4pentylcyclohexyl)-2Z-butene with its E-isomer.

reactant | triphenylphosphine | 11 mmol, 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-fluorophenyl bromide | 11 mmol, 2.2 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | 4-fluorophenethyl alcohol | FC1=CC=C(CCO)C=C1 | C8H9FO
reactant | 4-fluorophenethyltriphenylphosphonium bromide | 10 mmol, 4.6 g | [Br-].FC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-pentylcyclohexylacetaldehyde | 11 mmol, 2.1 g | C(CCCC)C1CCC(CC1)CC=O | C13H24O
solvent | ether | CCOCC | C4H10O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-fluorophenyl)-4-(4pentylcyclohexyl)-2Z-butene | 7.3 mmol, 2.2 g | FC1=CC=C(C=C1)\C=C/CCC1CCC(CC1)CCCCC | C21H31F
